US08466167B2
A solution of ethyl 4-bromo-3-methylbenzoate (from the previous step) (1.0 eq.), triethyl(ethynyl)silane (1.1 eq.), trans-dichlororbis(triphenylphosphine)palladium (II) (10 mol %), copper (I) iodide (20 mol %), and triethylamine (5.0 eq.) in DMF (0.3 M) was stirred at 60° C. overnight. After cooling to ambient temperature, the reaction mixture was diluted with ethyl acetate and 10% aqueous ammonium hydroxide. The two phases were separated, and the aqueous layer was extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous MgSO4, and concentrated en vaccuo. The crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-5% ethyl acetate in hexane to give ethyl 3-methyl-4-((triethylsilyl)ethynyl)benzoate as a yellow oil.

reactant | ethyl 4-bromo-3-methylbenzoate | BrC1=C(C=C(C(=O)OCC)C=C1)C | C10H11BrO2
reactant | triethyl(ethynyl)silane | 1.1 eq. | C(C)[Si](C#C)(CC)CC | C8H16Si
reactant | triethylamine | 5.0 eq. | C(C)N(CC)CC | C6H15N
solvent | DMF | 0.3 M | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ammonium hydroxide | [OH-].[NH4+]
catalyst | copper (I) iodide | [Cu]I
product | ethyl 3-methyl-4-((triethylsilyl)ethynyl)benzoate | CC=1C=C(C(=O)OCC)C=CC1C#C[Si](CC)(CC)CC | C18H26O2Si
